US07064124B2
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-isopropoxybenzoic acid
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-isopropoxybenzoic acid (0.472 g, 1.17 mmol) was dissolved in a mixed solution of acetonitrile (9 ml) and water (3 ml) and after adding thereto CAN (1.60 g, 2.92 mmol) at room temperature, the solution was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was recrystallized from ether to obtain the titled compound (0.364 g, 0.972 mmol, 83%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-isopropoxybenzoic acid | 1.17 mmol, 0.472 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OC(C)C)C(=C(C1OC)OC)OC)C | C22H28O7
reactant | CAN | 2.92 mmol, 1.60 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
product | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-isopropoxybenzoic acid | 0.972 mmol, 0.364 g, 83% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)C)C)=O | C20H22O7
